US05476875
25 ml of tert.-butyllithium solution (1.4M in hexane) are added dropwise at -70° within 10 minutes to 10 g of 4-(benzyloxy)-3-methoxy-bromobenzene dissolved in 100 ml of tetrahydrofuran. After stirring at -70° for 1 hour, 5 g of quinoline-4-carbaldehyde dissolved in 50 ml of tetrahydrofuran are added dropwise within 30 minutes. The reaction mixture is stirred at -40° for 1 hour and at -5° for 1 hour, poured into 200 ml of water and adjusted to pH 4 with glacial acetic acid. The mixture is extracted three times with 50 ml of ether each time. The combined ether phases are washed with water, dried over sodium sulfate and evaporated. There is obtained α-[4-(benzyloxy)-3-methoxyphenyl]-4-quinolinemethanol as an amorphous solid.

reactant | tert.-butyllithium | 1.4M, 25 ml | C(C)(C)(C)[Li]
reactant | 4-(benzyloxy)-3-methoxy-bromobenzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)OC | C14H13BrO2
reactant | quinoline-4-carbaldehyde | 5 g | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | α-[4-(benzyloxy)-3-methoxyphenyl]-4-quinolinemethanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(O)C1=CC=NC2=CC=CC=C12)OC | C24H21NO3
